US04105666
4-Benzamido-1-(3-benzoyloxypropyl)piperidine
Treatment of 4-benzamido-1-(3-hydroxypropyl) piperidine with benzoyl chloride as in the previous example gave 3.4 grams (92.5% yield) of the title compound, m.p. 146°-7° C. Crystallisation from ethanolic hydrogen chloride afforded the hydrochloride, m.p. 211°-212° C.

reactant | 4-benzamido-1-(3-hydroxypropyl) piperidine | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCO | C15H22N2O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-Benzamido-1-(3-benzoyloxypropyl)piperidine | 3.4 grams, 92.5% yield | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCOC(C1=CC=CC=C1)=O | C22H26N2O3
